US07282507B2
2-(1-Methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol
This compound was prepared using the general Sonagashira procedure as described in General Procedures Example C, reacting N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide (0.62 g, 1.5 mmol) and 3-(2,2,2-Trifluoro-ethylsulfanylmethyl)-pent-1yn-3-ol (0.32 g, 1.5 mmol) to yield the title compound as a yellow sticky oil.

reactant | N-(2-iodo-4-nitro-5-trifluoromethyl-phenyl)-methanesulfonamide | 1.5 mmol, 0.62 g | IC1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)NS(=O)(=O)C | C8H6F3IN2O4S
reactant | 3-(2,2,2-Trifluoro-ethylsulfanylmethyl)-pent-1yn-3-ol | 1.5 mmol, 0.32 g | FC(CSCC(C#C)(CC)O)(F)F | C8H11F3OS
product | 2-(1-Methanesulfonyl-5-nitro-6-trifluoromethyl-1H-indol-2-yl)-1-(2,2,2-trifluoro-ethylsulfanyl)-butan-2-ol | CS(=O)(=O)N1C(=CC2=CC(=C(C=C12)C(F)(F)F)[N+](=O)[O-])C(CSCC(F)(F)F)(CC)O | C16H16F6N2O5S2
